US06821980B1
(36c) 2-Methyl-propane-1-sulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester
Starting from 225 mg (0.84 mmol) N-(4-bromo-phenyl)-2,2,2-trifluoro-acetamide and 214 mg (0.42 mmol) 2-methyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester, 78 mg of the tide compound are obtained as a brown foam after two chromatography operations.

reactant | N-(4-bromo-phenyl)-2,2,2-trifluoro-acetamide | 0.84 mmol, 225 mg | BrC1=CC=C(C=C1)NC(C(F)(F)F)=O | C8H5BrF3NO
reactant | 2-methyl-propane-1-sulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester | 0.42 mmol, 214 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OS(=O)(=O)CC(C)C)I)OCC | C17H23IN4O4S
product | 2-Methyl-propane-1-sulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester | NC1=CC=C(C=C1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)CC(C)C | C23H29N5O4S
